US05302720
Reaction of 2-amino-2'-fluorobiphenyl (5 g) with benzoylisothiocyanate (4.4 g) in dichloromethane (120 ml) at ambient temperature for 8 hours gave N-benzoyl-N'-(2'-fluoro-2-biphenylyl)thiourea (m.p. 110°-111° C.).

reactant | 2-amino-2'-fluorobiphenyl | 5 g | NC1=C(C=CC=C1)C1=C(C=CC=C1)F | C12H10FN
reactant | benzoylisothiocyanate | 4.4 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | N-benzoyl-N'-(2'-fluoro-2-biphenylyl)thiourea | C(C1=CC=CC=C1)(=O)NC(=S)NC1=C(C=CC=C1)C1=C(C=CC=C1)F | C20H15FN2OS
